US09359381B2
Step 2: 1,3-Dimethyl-2,4-dioxo-5-phenyl-2,3,4,6-tetrahydro-1H-pyrrolo[3,4-d]pyrimidine-7-carbaldehyde
Phosphorous oxychloride (1.081 mL, 11.60 mmol) was added slowly to a solution of 1,3-dimethyl-5-phenyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione (2.96 g, 11.60 mmol) in DMF (40 mL) at 0° C. The mixture was stirred at 0° C. for 15 mins. The reaction was quenched with 2M HCl(aq), diluted with EtOAc, and the mixture stirred overnight. The mixture was then extracted with EtOAc (3×) and the combined organic phases washed with brine, dried over sodium sulphate and evaporated under vacuum. The residue was triturated with diethyl ether/hexane to afford the title compound.

reactant | Phosphorous oxychloride | 11.60 mmol, 1.081 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1,3-dimethyl-5-phenyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 11.60 mmol, 2.96 g | CN1C(N(C(C=2C1=CNC2C2=CC=CC=C2)=O)C)=O | C14H13N3O2
reactant | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 1,3-Dimethyl-2,4-dioxo-5-phenyl-2,3,4,6-tetrahydro-1H-pyrrolo[3,4-d]pyrimidine-7-carbaldehyde | CN1C(N(C(C=2C1=C(NC2C2=CC=CC=C2)C=O)=O)C)=O | C15H13N3O3
